US07872038B2
5-Amino-1-(2-chloro-6-dimethylamino-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfonylpyrazole (Compound Number 2-03)
To a mixture of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfonylpyrazole (0.5 g, 1.1 mmol) in dioxan (5 ml) was added dimethylamine (aqueous solution 60%, 0.33 g, 4.4 mmol). The mixture was heated at 200° C. for 30 min in the microwave oven (Smith Synthesizer) under pressure. After extractive workup (heptane-ethyl acetate, water) and column chromatography the title product was obtained (0.18 g), mp 197° C., 1H-NMR: 2.75 (6H), 6.27 (2H), 7.13 and 7.24 (2H); 19F-NMR: −64.0, −80.6.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfonylpyrazole | 1.1 mmol, 0.5 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C12H4Cl2F6N4O2S
reactant | dimethylamine | 4.4 mmol, 0.33 g | CNC | C2H7N
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
reactant | water | O | H2O
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | 5-Amino-1-(2-chloro-6-dimethylamino-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfonylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1N(C)C)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C14H10ClF6N5O2S
